US07834043B2
ethyl 2-(3-pyridinyl)-1,3-thiazole-4-carboxylate
A solution containing thionicotinamide (30 g, 217.1 mmol) in ethanol (540 mL) was treated with ethyl bromopyruvate (30.3 mL, 241.4 mmol), heated at 70° C. for 3 hours, cooled to 25° C., concentrated and partitioned between chloroform and saturated NaHCO3. The organic phase was washed with brine, dried over MgSO4, filtered and concentrated. The residue was chromatographed on silica gel eluting with chloroform and then with 15% methanol in chloroform containing 1% ammonium hydroxide to give the product (36.3 g, 71% yield).

reactant | thionicotinamide | 217.1 mmol, 30 g | C(C1=CN=CC=C1)(=S)N | C6H6N2S
reactant | ethyl bromopyruvate | 241.4 mmol, 30.3 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | methanol | CO | CH4O
solvent | ethanol | 540 mL | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-(3-pyridinyl)-1,3-thiazole-4-carboxylate | 36.3 g, 71% yield | N1=CC(=CC=C1)C=1SC=C(N1)C(=O)OCC | C11H10N2O2S
